US05360813
(2R*,3R*)-3-(4-Chlorobenzenesulfonamido)-2-(2,4-dichlorophenyl)-1-(1H-1,2,4-triazol-1-yl)butan-2-ol
Following the general sulfonylation procedure explained in example 1 and using (2R*,3R*)-3-amino-2-(2,4-dichlorophenyl)-l-(1H-1,2,4-triazol-1-yl)butan-2-ol, prepared as described in EP 332,387, and 4-chlorobenzenesulfonyl chloride, the title product is obtained in similar yield.

reactant | (2R*,3R*)-3-amino-2-(2,4-dichlorophenyl)-l-(1H-1,2,4-triazol-1-yl)butan-2-ol | N[C@@H]([C@@](CN1N=CN=C1)(O)C1=C(C=C(C=C1)Cl)Cl)C | C12H14Cl2N4O
reactant | 4-chlorobenzenesulfonyl chloride | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
product | (2R*,3R*)-3-(4-Chlorobenzenesulfonamido)-2-(2,4-dichlorophenyl)-1-(1H-1,2,4-triazol-1-yl)butan-2-ol | ClC1=CC=C(C=C1)S(=O)(=O)N[C@@H]([C@@](CN1N=CN=C1)(O)C1=C(C=C(C=C1)Cl)Cl)C | C18H17Cl3N4O3S
